US05336771
3-Bromo-5-Chloropyridin-2-One
To a cooled (0° C.) solution of 2-amino-3-bromo-5-chloropyridine (100 g, 0.482 tool) in water (815 mL) and concentrated HC1 (130 mL) was added a solution of sodium nitrite (33.26 g, 0.482 tool) in water (272 mL). The resulting suspension was allowed to warm to room temperature and stir for 18 hours, at which point the solids were filtered, washed with carbon tetrachloride (2×50 mL), and dried in a vacuum oven (40° C.) to yield 75.1 g (74.8%) of gray-yellow so lid, m.p. 170°-173° C.: IR (mineral oil (Nujol (trademark ) ) 3111, 3041, 2947, 2850, 2722, 1814, 1696, 1663, 1643, 1585, 1527, 1462, 1377, 1302, 1234, 1171, 1153, 1123, 1106, 1040, 917, 896, 876, 839, 747, 726, 644, 635, 561, 539, 523, 410, 251, 235, 225, 220cm-1 ; 1H NMR (300 MHz, D6 -DMSO)δ 7.72 (d, 1H, J=2.2Hz) , 8.08 (d, 1H , J=2 . 2Hz ), 12.41 (br s, 1H); 13C NMR (DMSO) δ 110.88, 115.35, 134.08, 142.64, 157.56; exact mass calculated for C5H3NBrClO=206.9086. High resolution mass spec. 206.9093.

reactant | 2-amino-3-bromo-5-chloropyridine | 100 g | NC1=NC=C(C=C1Br)Cl | C5H4BrClN2
reactant | water | 815 mL | O | H2O
product | 3-Bromo-5-Chloropyridin-2-One | BrC=1C(NC=C(C1)Cl)=O | C5H3BrClNO
